US08957064B2
5-{4-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-piperidin-1-ylmethyl]-phenyl}-2-methyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidine
200 mg (0.64 mmol) 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde and 181 mg (0.76 mmol) 2-piperidine-4-yl-3H-imidazo[4,5-c]pyridine hydrochloride salt were treated as described in example 2.0. Additional NaBH(OAc)3 has been added after one, two, three, four and a half, five and a half, and seven and a half hours (two equivalents each). The solvents were evaporated and the usual workup and purification yields 108 mg of the desired compound.

reactant | 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.64 mmol, 200 mg | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C19H14N4O
reactant | 2-piperidine-4-yl-3H-imidazo[4,5-c]pyridine hydrochloride salt | 0.76 mmol, 181 mg | Cl.N1CCC(CC1)C1=NC2=C(C=NC=C2)N1
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 5-{4-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-piperidin-1-ylmethyl]-phenyl}-2-methyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidine | 108 mg | N1=C(NC=2C=NC=CC21)C2CCN(CC2)CC2=CC=C(C=C2)C2=NC=1N(C=C2C2=CC=CC=C2)N=C(N1)C | C30H28N8
